US06437145B1
Production of 4-carboxymethyl-3-formyl-1,3-oxazolidin-5-one
14.3 g (100 mmol) of formyl aspartic acid anhydride are charged into a 100° C. solution of 9 g (300 mmol) paraformaldehyde in 200 ml glacial acetic acid. After 30 min the mixture is cooled to 50° C. and the acetic acid removed in a vacuum. Then, the yellowish oily residue is taken up in a little saturated sodium hydrogen carbonate solution and extracted several times after acidification of the aqueous solution to pH 1.5 with ethyl acetate. The collected organic phases are dried over magnesium sulfate and then filtered. After removal of the solvent in a vacuum a yellowish oil is obtained.

reactant | formyl aspartic acid anhydride | 100 mmol, 14.3 g | C(=O)N[C@H]1CC(=O)OC1=O | C5H5NO4
reactant | paraformaldehyde | 300 mmol, 9 g | C=O | CH2O
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-carboxymethyl-3-formyl-1,3-oxazolidin-5-one | C(=O)(O)CC1N(COC1=O)C=O | C6H7NO5
